US07713994B2
(6-Benzyloxy-5-propoxy-pyridin-2-yl)-methanol
To a solution of 2-benzyloxy-3-propoxy-6-triisopropylsilanyloxymethyl-pyridine (860 mg, 2.0 mmole) is added 1M tetrabutylammonium fluoride solution in tetrahydrofuran (4.0 mL, 4.0 mmole) and the mixture stirred at room temperature for four hours. The reaction mixture is diluted with water and extracted with ether. The combined ether layers were combined and washed with water, dried over sodium sulfate, filtered, chromatographed on silica gel eluting with 1:1 hexanes/ether to give a white solid, 355 mg, (65%); m.p. 50-1° C., MS (ES+): m/z 274.1 (M+H).

reactant | 2-benzyloxy-3-propoxy-6-triisopropylsilanyloxymethyl-pyridine | 2.0 mmole, 860 mg | C(C1=CC=CC=C1)OC1=NC(=CC=C1OCCC)CO[Si](C(C)C)(C(C)C)C(C)C | C25H39NO3Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 4.0 mmole, 4.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (6-Benzyloxy-5-propoxy-pyridin-2-yl)-methanol | C(C1=CC=CC=C1)OC1=C(C=CC(=N1)CO)OCCC | C16H19NO3
